2134-09-27 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2134-9-27**] 12:40 AM
 INVASIVE VENTILATION - START [**2134-9-27**] 05:59 AM
 ARTERIAL LINE - START [**2134-9-27**] 06:44 AM
   --Stopped Citalopram
   --Afebrile through the day, continued tachy, BP's have trended down
   through day, was even hypoTN so received 2L NS boluses
   --Aggressive fluids for pancreatitis --> continued with D5 1/2NS
   --CT abd/pelvis and head showing severe pancreatitis, fluid and
   stranding in colon.
   --CT head with ventriculomegaly --> central atrophy (EtOH abuse?) vs
   communicating hydrocephalus
   --Added on RPR and lipase
   --11a labs with Na 156, K 3.2, BUN/Cr 25/1.2, BS 204, free Ca 1.23 nml
   --6p labs with  Na 154, K 3.2, BUN/Cr 21/1.0, BS 119. Also WBC
   16-->14,  Hct 36 --> 28 --> repeat pending, INR also coming down 4.8
   --> 1.9 --> 1.5
   --B12, folate pending
   --UNa 19, Uosm 636
   --Monday consider post pyloric Dobhoff, ID consult for HAART, TPN,
   pancreas consult
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-9-27**] 12:19 AM
   Morphine Sulfate - [**2134-9-27**] 04:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-9-27**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 99 (79 - 131) bpm
   BP: 99/51(66) {99/51(66) - 99/51(66)} mmHg
   RR: 6 (6 - 28) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 74 Inch
             Total In:
                                                                  7,779 mL
                                                                  6,342 mL
   PO:
             TF:
   IVF:
                                                                  7,779 mL
                                                                  6,342 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                    660 mL
   Urine:
                                                                  2,120 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,159 mL
                                                                  5,682 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 324 (324 - 324) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 73.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.27/47/111/25/-5
   Ve: 10.2 L/min
   PaO2 / FiO2: 111
   Physical Examination
   GENERAL: Aggitated, in restraints, does not follow commands
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA. Dry mucus membranes with thrush. OP clear.
   CARDIAC: Irregular, tachycardia. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 1011**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: Distended, decreased bowel sounds
   EXTREMITIES: No edema, 2+ dorsalis pedis/ posterior tibial pulses.
   Moves all extremities.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: unable to fully assess
   Labs / Radiology
   377 K/uL
   10.6 g/dL
   132 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   15 mg/dL
   124 mEq/L
   153 mEq/L
   32.5 %
   17.2 K/uL
        [image002.jpg]
                            [**2134-9-25**]  09:40 PM
                            [**2134-9-25**]  10:57 PM
                             [**2134-9-26**]  04:30 AM
                             [**2134-9-26**]  11:09 AM
                             [**2134-9-26**]  05:25 PM
                             [**2134-9-26**]  11:49 PM
                             [**2134-9-27**]  05:25 AM
                             [**2134-9-27**]  05:30 AM
   WBC
   18.5
   16.1
   14.6
   16.0
   17.2
   Hct
   37.4
   36.0
   28.0
   31.0
   32.5
   Plt
   426
   401
   337
   368
   377
   Cr
   1.3
   1.3
   1.3
   1.2
   1.0
   1.0
   0.9
   TCO2
   23
   Glucose
   132
   121
   167
   [**Telephone/Fax (3) 11173**]
   132
   Other labs: PT / PTT / INR:13.8/27.2/1.2, CK / CKMB / Troponin-T:211//,
   ALT / AST:28/37, Alk Phos / T Bili:56/0.9, Amylase / Lipase:152/23,
   Differential-Neuts:77.8 %, Band:0.0 %, Lymph:16.9 %, Mono:2.7 %,
   Eos:2.1 %, Albumin:2.7 g/dL, LDH:444 IU/L, Ca++:7.9 mg/dL, Mg++:2.0
   mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: Increased LLL opacity, previously read as atelectasis and
   effusion.
   CT Abd and Pelvis:
   1. Severe pancreatitis with peripancreatic stranding and fluid, but no
   pancreatic necrosis or pseudocyst. Reactive inflammation in the
   descending colon.
   2. Small blush along the course of a mesenteric vessel may represent a
   tiny
   pseudoaneurysm at the inferior margins of the inflammatory change.
   However this is not along the course of the dominant abdominal aortic
   vessels.
   3. Multiple renal hypodensities, most of which represent cysts, but the
   smallest of which cannot be fully characterized.
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ATRIAL FIBRILLATION (AFIB)
 DELIRIUM / CONFUSION
 PANCREATITIS, ACUTE
   74yoM h/o HIV on HAART and EtOH abuse transfered from OSH with
   pancreatitis and altered mental status.
   .
   #.  Pancreatitis - Severe pancreatitis as demonstrated on CT with
   evidence of pseudocyst.  Etiology likely secondary to EtOH vs drug
   reaction, HAART therapy held at OSH.  Cholelithiasis unlikely given
   unremarkable RUQ u/s.  TG 253.  Lipase normalizing.
   - NPO
   - IVF with D5W for correction of hypernatremia as he now appears
   euvolemic.
   - hold HAART meds
   - pain meds
   - Consult IR to have post-pyloric dobhoff placed to give low amounts of
   - Consult Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 2269**] from Pancreatic service
   #.  Respiratory failure: Now intubated after having an ABG with pH 7.27
   due to CO2 retention.
   - Currently on assist control with failure to fully correct his
   acidemia.  Will begin with increasing RR to improve ventilation.  If
   that does not work could consider increasing tidal volumes.
   #.  Altered mental status - Likely multifactorial and h/o progressive
   decline for one year. CT scan showed moderate ventriculomegaly,
   out-of-proportion to sulcal enlargement, concerning for communicating
   hydrocephalus or a chronic process. TSH normal.
   - re check CK
   - Now that INR normalized, can do an LP.  Will be good for CSF analysis
   and measurement of pressures.
   #.  Leukocytosis -  No clear source to date, not on antibiotics.
   Opacity on CXR however CT suggests atelectasis.  UA negative. Concern
   for infection vs pancreatitis.
   - Pan culture if febrile
   - Hold Abx until clear source.
   .
   #.  Hypernatremia - Sodium elevated to 161 at OSH from admission Na of
   134.  Today value is 153, with a free water deficit of 4.7 liters.
   More likely a chonically rising elevation in Na, as it is unlikely that
   with aggressive fluid resuscitation with NS, there was a 30 pt increase
   in one day.   Today he appears euvolemic, so we will give just free
   water to try to correct hypernatremia.
   - Will give D5W at 150ccs/hour.
   - Check [**Hospital1 7**] lytes.
   - Do not rapidly correct > 12mEq/24hr
   .
   #.  EtOH Withdrawal - H/o daily EtOH and prior to intubation had been
   receiving BZD, approx 4-8mg in 24hrs.  Unknown if prior seizures or
   withdrawal.  H/o chornic decline.  We can reassess after his mental
   status improves, as he is currently intubated and sedated.
   - thaimine
   .
   #.  HIV - Diagnosed in [**2124**] and long-term HAART therapy, currently held
   given concern for pancreatitis.
   - Hold HAART temporarily.  We will try to contact his outpatient
   provider to gather added information.
   - ID consult
   .
   #.  Coagulopathy - INR elevated to 5.4 at OSH on warfarin for a fib.
   Warfarin held and Vit K started, his INR is now normalized.  No obvious
   bleeding.  Once he has been stabilized, we will consider restarting his
   warfarin.
   .
   #.  A fib - On Warfarin, currently held in the setting of
   subratherapeutic INR.  Episode of RVR that responded to IV dig and
   lopressor at OSH.  Currently on a labetalol gtt and well controlled.
   - Hold dig as it was newly started and monitor for effect of beta
   blocker
   - Follow INR
   - Hold warfarin
   .
   #.  Ileus
 Has had CT with evidence of ileus and abdominal distention
   on exam.  Likely [**12-28**] pancreatitis.  [**Month (only) 51**] improve with dobhoff for
   decompression.  We will continue to monitor.
   - NPO
   - bowel rest
   .
   #.  FEN: NPO
   - lytes [**Hospital1 7**], replete as needed
   - can begin low-dose tube-feeds after dobhoff placement.
   .
   #.  PPX:
   -DVT ppx with pneumoboots and SC heparin.
   -Bowel regimen not needed currently.
   -Pain management with fentanyl.
   .
   #.  ACCESS: PIV's, PICC -> plan is to leave outside PICC for now.
   .
   #.  CODE STATUS: Per report, DNR, ok to intubate but he has said he
   would like a
dignified death
 and does not want prolonged mechanical
   ventilation.  Will clarify with his son.
   .
   #.  EMERGENCY CONTACT: [**First Name4 (NamePattern1) 107**] [**Known lastname 11148**] healthcare proxy (son, lives in
   [**Name (NI) 11149**]) [**Telephone/Fax (1) 11150**].
   .
   #.  DISPOSITION: ICU pending improvement in mental status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2134-9-25**] 09:19 PM
   20 Gauge - [**2134-9-26**] 03:00 PM
   Arterial Line - [**2134-9-27**] 06:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Possibly DNR but can be intubated.
   Disposition:

2134-09-28 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2134-9-27**] 02:03 PM
 PAN CULTURE - At [**2134-9-27**] 08:41 PM
   BC x 2-- peripheral and aline
   sputum
   urine
   - Per PCP/ID Doc: Referred by previous PCP to [**Name9 (PRE) 11185**] (PCP/ID) in
   [**9-/2123**]: CD4 Count 432 Viral load 79k (Hep A & B Immune), started on
   Combivir, Sustiva (still on that). Undetectable Viral load since he has
   been on therapy. Most recent CD4: 1845 ([**2134-9-16**])
   Atenolol, Lipitor 40, Combivir/Sustiva
   Triglycerides: 515
   Chol: 324
   - Spoke with Dr. [**Last Name (STitle) 3490**] - patient staffed by GI, seen by [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 2269**].
   They (GI) may want to place post-pyloric tube. However, IR had been
   consulted to place this.
   - LP normal with 2 WBC and 0 RBC, Protein 42, Glucose 95.
   - Persistently acidotic on vent, tidal volume increased to 600cc.
   - Noon sodium improved at 151.
   - Temp to 100.4.  Most likely due to pancreatitis, but cultures sent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Phenylephrine - 1 mcg/Kg/min
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Fentanyl - [**2134-9-27**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2134-9-27**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-9-28**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.9
   HR: 102 (76 - 105) bpm
   BP: 99/55(69) {83/45(56) - 123/65(82)} mmHg
   RR: 18 (6 - 28) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 74 Inch
             Total In:
                                                                 10,820 mL
                                                                  1,150 mL
   PO:
             TF:
   IVF:
                                                                 10,820 mL
                                                                  1,150 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    980 mL
   Urine:
                                                                  1,465 mL
                                                                    480 mL
   NG:
   500 mL
   Stool:
   Drains:
   Balance:
                                                                  9,355 mL
                                                        14L up through LOS
   170 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (550 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.31/42/167/20/-4   at 345am today
   Ve: 12.8 L/min
   PaO2 / FiO2: 418
   Physical Examination
   Intubated. No response to voice but grimaces to sternal rub. Pupil
   2-3mm bilaterally some response to L > R. Has no oculocephalic reflex.
   CTAB no w/c/r/r
   S1 S2 soft, difficult to hear
   No Grey [**Doctor Last Name **] or Cullen sign. Distended belly, not tender to palpation
   No BLE edema. Slight hand edema
   PICC and A-line on R, peripheral on R
   Labs / Radiology
   365 K/uL
   8.8 g/dL
   126 mg/dL
   1.1 mg/dL  (improved)
   20 mEq/L  ****
   3.9 mEq/L
   14 mg/dL
   122 mEq/L
   147 mEq/L  (improving from peak 161)
   27.5 %
   18.4 K/uL
        [image002.jpg]
                             [**2134-9-27**]  05:30 AM
                             [**2134-9-27**]  07:28 AM
                             [**2134-9-27**]  09:32 AM
                             [**2134-9-27**]  11:38 AM
                             [**2134-9-27**]  12:18 PM
                             [**2134-9-27**]  02:43 PM
                             [**2134-9-27**]  05:16 PM
                             [**2134-9-27**]  05:27 PM
                             [**2134-9-28**]  03:44 AM
                             [**2134-9-28**]  03:45 AM
   WBC
   17.2
   18.4
   Hct
   32.5
   27.5  (being repeated now)
   Plt
   377
   365
   Cr
   0.9
   0.9
   1.0
   1.1
   TCO2
   23
   23
   23
   22
   23
   22
   Glucose
   132
   137
   116
   126
   Other labs: PT / PTT / INR:pending this am (last INR 1.2, 1.3), CK /
   CKMB / Troponin-T:211//, ALT / AST:28/37  (yesterday), Alk Phos / T
   Bili:56/0.9 (yesterday), Amylase / Lipase:152 (improved from 404) / 24
   (23, 19), Differential-Neuts:77.8 % (today), Band:0.0 %, Lymph:16.9 %,
   Mono:2.7 %, Eos:2.1 %, Lactic Acid:0.8 mmol/L  (yesterday) ,
   Albumin:2.2 g/dL  (today), LDH:331 IU/L  (today, 444 yest), Ca++:8.2
   mg/dL  (corrects), Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: UA yesterday small blood, neg nitr, neg
   LE, 30 prot, neg ketones and gluc
   LP with 2 WBC, 0 RBC, poly 1, lymph 94, mono 5, prot 42, glucose 95
   Imaging: [**2134-9-27**] CXR
   FINDINGS: Tip of endotracheal tube terminates 5.4 cm above the carina.
   Heart
   size remains normal. Mild interstitial edema has developed likely due
   to
   fluid overload. Improving atelectasis at left base and persistent small
   left
   effusion.
   [**2134-9-26**] CT abd/pelv final read
   IMPRESSION:
   1. Severe pancreatitis with peripancreatic stranding and fluid, but no
   pancreatic necrosis or pseudocyst. Reactive inflammation in the
   descending
   colon.
   2. Small blush along the course of a mesenteric vessel may represent a
   tiny
   pseudoaneurysm at the inferior margins of the inflammatory change.
   However
   this is not along the course of the dominant abdominal aortic vessels.
   3. Multiple renal hypodensities, most of which represent cysts, but the
   smallest of which cannot be fully characterized.
   Microbiology: CSF HSV pending
   [**2134-9-27**] UCx, sputum gstain Cx, BCx x2 all pending
   CSF Gstain negative, Cx's pending
   Crypto Ag pending
   RPR neg x2
   Cdiff negative
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 ATRIAL FIBRILLATION (AFIB)
 DELIRIUM / CONFUSION
 PANCREATITIS, ACUTE
   74yoM h/o HIV on HAART and EtOH abuse transfered from OSH with
   pancreatitis and altered mental status.
   .
   #.  Pancreatitis - Severe pancreatitis as demonstrated on CT with
   evidence of pseudocyst.  Etiology likely secondary to EtOH vs drug
   reaction, HAART therapy held at OSH.  Cholelithiasis unlikely given
   unremarkable RUQ u/s.  Lipase normalizing.
   [**Last Name (un) 1369**]
s criteria significant for age, WBC
s and LDH on presentation
   and Hct drop, base deficit, and fluid sequestration at 48hrs. With
   these six criteria, has 40% chance mortality.
   - NPO
   - Continue gentle IVF with D5W for correction of hypernatremia as he
   now appears euvolemic.
   - hold HAART meds
   - pain meds with Fentanyl
   - Will f/u with IR vs GI Pancreas to see who will place the Dobhoff
   today
   - F/u with Dr. [**Last Name (STitle) 2269**] from Pancreas
   #.  Respiratory failure: Now intubated after having an ABG with pH 7.27
   due to CO2 retention.  Continued to be acidotic at 7.3 so tidal volume
   increased to 760 and CO2 slightly improved to 42 this am, pH 7.31.
   - Increase tidal volume to 800 this am to improve ventilation and
   repeat ABG later this am
   #.  Altered mental status - Likely multifactorial and h/o progressive
   decline for one year. CT scan showed moderate ventriculomegaly,
   out-of-proportion to sulcal enlargement, concerning for communicating
   hydrocephalus or a chronic process. TSH normal.
   - re check CK
   --F/u Crypto and HSV from PCR
   --Continue sedation with Fentanyl Versed for now until less acidotic
   and underlying medical condition appears to improve, then will consider
   decreasing sedation
   #.  Leukocytosis -  No clear source to date, not on antibiotics.
   Opacity on CXR however CT suggests atelectasis.  UA negative. Concern
   for infection vs pancreatitis.
   - Pan culture if febrile
 cultures negative to date
   - Continue to hold Abx until clear source
   .
   #.  Hypernatremia
 Had hypovolemic hypernatremia picture on
   presentation with elevated Uosm and low UNa. Sodium improving slowly,
   is 147 today. Wt is 84kg with free H20 deficit 2.5L. Appears euvolemic
   now.
   - Will give D5W at 150ccs/hour.
   - Check [**Hospital1 7**] lytes.
   - Do not rapidly correct > 12mEq/24hr
   .
   #.  EtOH Withdrawal - H/o daily EtOH and prior to intubation had been
   receiving BZD, approx 4-8mg in 24hrs.  Unknown if prior seizures or
   withdrawal.  H/o chronic decline.  We can reassess after his mental
   status improves, as he is currently intubated and sedated.
   - thiamine, multivitamins, folate qday
   - continue sedation Versed as is for now
   .
   #.  HIV - Diagnosed in [**2124**] and long-term HAART therapy, currently held
   given concern for pancreatitis.
   - Currently holding HAART. Was taking Combivir/Sustiva before
   admission. Will consult ID today about the need to start his therapy,
   given that it could have been implicated in the pancreatitis
   #.  A fib - On Warfarin, currently held in the setting of
   subratherapeutic INR, but his coagulopathy has now normalized.
   .  Episode of RVR that responded to IV dig and lopressor at OSH.
   Currently on a labetalol gtt and well controlled.
   - Will consider adding back Coumadin now that subTx INR, but unclear
   whether necessary in setting of acute illness with increased risk of
   bleed with higher INR
   - Hold dig as it was newly started and monitor for effect of beta
   blocker
   - Follow INR
   - Hold warfarin
   .
   #.  Ileus
 Has had CT with evidence of ileus and abdominal distention
   on exam.  Likely due to pancreatitis.  [**Month (only) 51**] improve with dobhoff for
   decompression.  We will continue to monitor.
   - NPO
   - bowel rest
   .
   #.  FEN: NPO
   - lytes [**Hospital1 7**], replete as needed
   - can begin low-dose tube-feeds after dobhoff placement today
   .
   #.  PPX:
   -DVT ppx with pneumoboots and SC heparin.
   -Bowel regimen not needed currently.
   -Pain management with fentanyl.
   .
   #.  ACCESS: PIV's, PICC -> plan is to leave outside PICC for now. Art
   line on R
   .
   #.  CODE STATUS: Per report, DNR, ok to intubate but he has said he
   would like a
dignified death
 and does not want prolonged mechanical
   ventilation.  Will clarify with his son.
   .
   #.  EMERGENCY CONTACT: [**First Name4 (NamePattern1) 107**] [**Known lastname 11148**] healthcare proxy (son, lives in
   [**Name (NI) 11149**]) [**Telephone/Fax (1) 11150**].
   .
   #.  DISPOSITION: ICU pending improvement in mental status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2134-9-25**] 09:19 PM
   20 Gauge - [**2134-9-26**] 03:00 PM
   Arterial Line - [**2134-9-27**] 06:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2134-09-29 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2134-9-28**] 04:35 PM
 PICC LINE - STOP [**2134-9-28**] 07:13 PM
   - IJ placed
   - PICC pulled tip sent
   - Dobhoff placed -> in stomach, to IR tomorrow for post-pyloric
   - Responded to fluid bolus of D5 Bicarb and monitor UOP
   - Na down to 140 after 5L D5W, Cl still high to 112
   - Set up family meeting for goals of care
   - H/o ? mesenteric pseudoaneurysm, now hct dropping --> guiacs negative
   - needs mag, phos
   - pt switched to levophed, currently on  0.05mcg/kg/min
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-9-29**] 12:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-9-29**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.8
   HR: 77 (76 - 114) bpm
   BP: 101/51(66) {91/43(57) - 128/60(80)} mmHg
   RR: 20 (8 - 23) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 74 Inch
    CVP: 9 (7 - 13)mmHg
   Total In:
                                                                  5,976 mL
                                                                    908 mL
   PO:
   TF:
   IVF:
                                                                  5,976 mL
                                                                    908 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                    670 mL
   Urine:
                                                                  1,510 mL
                                                                    370 mL
   NG:
                                                                    750 mL
                                                                    300 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  3,316 mL
                                                        17L up through LOS
                                                                    238 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.42/40/120/24/1
   Ve: 13.5 L/min
   PaO2 / FiO2: 300
   Physical Exam
   Not responsive to voice but now starting to grimace to being shaken,
   and with slight arm movement. Pupils reacting bilaterally 3
2. Lungs
   clear, S1 S2 clear. Abd with some grimacing to palpation but is not
   tense or tight. 2+ edema in hands. Less edema noted in BLE
   Labs / Radiology
   369 K/uL
   8.3 g/dL
   108 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.8 mEq/L
   12 mg/dL
   112 mEq/L
   141 mEq/L
   24.9 %
   17.2 K/uL
        [image002.jpg]
                             [**2134-9-27**]  12:18 PM
                             [**2134-9-27**]  02:43 PM
                             [**2134-9-27**]  05:16 PM
                             [**2134-9-27**]  05:27 PM
                             [**2134-9-28**]  03:44 AM
                             [**2134-9-28**]  03:45 AM
                             [**2134-9-28**]  06:20 AM
                             [**2134-9-28**]  04:00 PM
                             [**2134-9-29**]  02:46 AM
                             [**2134-9-29**]  03:11 AM
   WBC
   18.4
   17.2
   Hct
   32.5, 31.0 before
   27.5
   27.3
   24.9
   Plt
   365
   369
   Cr
   1.0
   1.1
   1.1
   1.0
   TCO2
   23
   22
   23
   22
   27
   Glucose
   116
   126
   204
   108
   Other labs: PT / PTT / INR:13.6/32.6/1.2   (today) , CK / CKMB /
   Troponin-T:211//, ALT / AST:28/37, Alk Phos / T Bili:56/0.9, Amylase /
   Lipase:152/24, Differential-Neuts:77.8 %, Band:0.0 %, Lymph:17.2 %,
   Mono:3.4 %, Eos:1.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL,
   LDH:343 IU/L, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 ATRIAL FIBRILLATION (AFIB)
 DELIRIUM / CONFUSION
 PANCREATITIS, ACUTE
   74yoM h/o HIV on HAART and EtOH abuse transfered from OSH with
   pancreatitis and altered mental status.
   .
   #.  Pancreatitis - Severe pancreatitis as demonstrated on CT with
   evidence of pseudocyst.  Etiology likely secondary to EtOH vs drug
   reaction, HAART therapy held at OSH.  Cholelithiasis unlikely given
   unremarkable RUQ u/s.  Lipase normalizing.
   [**Last Name (un) 1369**]
s criteria significant for age, WBC
s and LDH on presentation
   and Hct drop, base deficit, and fluid sequestration at 48hrs. With
   these six criteria, has 40% chance mortality.
   - Pt on schedule for IR guided placement of Dobhoff into jejunum, will
   then f/u with Dr. [**Last Name (STitle) 2269**] and start feedings per their recs.
   - NPO for now though
   - hold HAART meds
   - pain meds with Fentanyl
   - consider re-imaging his abdomen to see if any improvement in
   pancreatitis
   # Dropping hematocrit
 Unclear source as guiac
s negative per nursing
   and no clear blood loss anywhere.
   #.  Respiratory failure: ABG has improved, is less CO2 and pH is better
   yesterday after giving more fluids, so could have been intravascular
   volume down leading to significant amt of dead space. Will continue to
   try to keep up with his volume status today with normal saline.
   #.  Altered mental status - Likely multifactorial and h/o progressive
   decline for one year. CT scan showed moderate ventriculomegaly,
   out-of-proportion to sulcal enlargement, concerning for communicating
   hydrocephalus or a chronic process. TSH normal.
   - re check CK
   --F/u Crypto and HSV from PCR
   --Continue sedation with Fentanyl Versed for now until less acidotic
   and underlying medical condition appears to improve, then will consider
   decreasing sedation
   #.  Leukocytosis -  No clear source to date, not on antibiotics.
   Opacity on CXR however CT suggests atelectasis.  UA negative. Concern
   for infection vs pancreatitis.
   - Pan culture if febrile
 cultures negative to date
   - Continue to hold Abx until clear source
   - Pull PICC line from OSH and will need to have central line placed
   today
   .
   #.  Hypernatremia
 Had hypovolemic hypernatremia picture on
   presentation with elevated Uosm and low UNa. Sodium improving slowly,
   is 147 today. Wt is 84kg with free H20 deficit 2.5L. Appears euvolemic
   now.
   - Will give D5W at 150ccs/hour.
   - Check [**Hospital1 7**] lytes.
   - Do not rapidly correct > 12mEq/24hr
   .
   #.  EtOH Withdrawal - H/o daily EtOH and prior to intubation had been
   receiving BZD, approx 4-8mg in 24hrs.  Unknown if prior seizures or
   withdrawal.  H/o chronic decline.  We can reassess after his mental
   status improves, as he is currently intubated and sedated.
   - thiamine, multivitamins, folate qday
   - continue sedation Versed as is for now
   .
   #.  HIV - Diagnosed in [**2124**] and long-term HAART therapy, currently held
   given concern for pancreatitis.
   - Currently holding HAART. Was taking Combivir/Sustiva before
   admission. Will consult ID about the need to start his therapy, given
   that it could have been implicated in the pancreatitis
   #.  A fib - On Warfarin, currently held in the setting of
   subratherapeutic INR, but his coagulopathy has now normalized.
   .  Episode of RVR that responded to IV dig and lopressor at OSH.
   Currently on a labetalol gtt and well controlled.
   - Will consider adding back Coumadin now that subTx INR, but unclear
   whether necessary in setting of acute illness with increased risk of
   bleed with higher INR
   - Hold dig as it was newly started and monitor for effect of beta
   blocker
   - Follow INR
   - Hold warfarin
   .
   #.  Ileus
 Has had CT with evidence of ileus and abdominal distention
   on exam.  Likely due to pancreatitis.  [**Month (only) 51**] improve with dobhoff for
   decompression.  We will continue to monitor.
   - Place Dobhoff into jejunum and will start light TF
   #.  FEN: NPO
   - lytes [**Hospital1 7**], replete as needed
   - can begin low-dose tube-feeds after dobhoff placement today
   .
   #.  PPX:
   -DVT ppx with pneumoboots and SC heparin.
   -Bowel regimen not needed currently.
   -Pain management with fentanyl.
   .
   #.  ACCESS: PIV's, PICC -> plan is to leave outside PICC for now. Art
   line on R
   .
   #.  CODE STATUS: Per report, DNR, ok to intubate but he has said he
   would like a
dignified death
 and does not want prolonged mechanical
   ventilation.  Will clarify with his son.
   .
   #.  EMERGENCY CONTACT: [**First Name4 (NamePattern1) 107**] [**Known lastname 11148**] healthcare proxy (son, lives in
   [**Name (NI) 11149**]) [**Telephone/Fax (1) 11150**].
   .
   #.  DISPOSITION: ICU pending improvement in mental status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-9-26**] 03:00 PM
   Arterial Line - [**2134-9-27**] 06:44 AM
   Multi Lumen - [**2134-9-28**] 04:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2134-09-30 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --Talked to ID who said contact his ID PCP and ask him to manage HIV
   meds. Keenholtz cell phone [**Telephone/Fax (1) 11240**]. Said OK to hold off on HAART
   while critically ill, do whatever we think is appropriate.
   --Got Dobhoff.
   --Repeat pm Hct 24.8 stable from earlier in the morning
   --Family meeting planned for 4pm tomorrow with daughter [**Name (NI) 7402**] and son
   [**Name (NI) 107**] will conf call in.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 125 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-9-30**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.8
   HR: 100 (75 - 121) bpm
   BP: 115/65(82) {85/50(64) - 150/79(100)} mmHg
   RR: 20 (19 - 23) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 74 Inch
    CVP: 12 (8 - 15)mmHg
   Total In:
                                                                  1,708 mL
                                                                    977 mL
   PO:
   TF:
                                                                     62 mL
                                                                     72 mL
   IVF:
                                                                  1,646 mL
                                                                    906 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                  1,010 mL
   Urine:
                                                                  1,600 mL
                                                                    360 mL
   NG:
                                                                    600 mL
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                   -492 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 15 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/43/100/25/1
   Ve: 13.5 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   468 K/uL
   8.2 g/dL
   113 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.1 mEq/L
   14 mg/dL
   110 mEq/L
   142 mEq/L
   24.2 %
   14.6 K/uL
        [image002.jpg]
                             [**2134-9-27**]  05:27 PM
                             [**2134-9-28**]  03:44 AM
                             [**2134-9-28**]  03:45 AM
                             [**2134-9-28**]  06:20 AM
                             [**2134-9-28**]  04:00 PM
                             [**2134-9-29**]  02:46 AM
                             [**2134-9-29**]  03:11 AM
                             [**2134-9-29**]  03:56 PM
                             [**2134-9-30**]  03:28 AM
                             [**2134-9-30**]  04:36 AM
   WBC
   18.4
   17.2
   14.6
   Hct
   27.5
   27.3
   24.9
   24.8
   24.2
   Plt
   365
   369
   468
   Cr
   1.1
   1.1
   1.0
   1.1
   TCO2
   23
   22
   27
   28
   Glucose
   126
   204
   108
   113
   Other labs: PT / PTT / INR:13.6/32.6/1.2   (today), CK / CKMB /
   Troponin-T:211//, ALT / AST:28/37, Alk Phos / T Bili:56/0.9, Amylase /
   Lipase:152/13   (today), Differential-Neuts:77.8 %  (today), Band:0.0
   %, Lymph:17.2 %, Mono:3.4 %, Eos:1.3 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.2 g/dL, LDH:311 IU/L  (today), Ca++:8.6 mg/dL, Mg++:2.3
   mg/dL, PO4:2.8 mg/dL
   Imaging: CXR pending this am
   Microbiology: HSV still pending
   [**2134-9-28**] cath tip negative
   Last BCx's [**2134-9-27**] negative to date
   Assessment and Plan
 PANCREATITIS, ACUTE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 .H/O ALCOHOL ABUSE
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 LEUKOCYTOSIS
 ACIDOSIS, METABOLIC
 ELECTROLYTE & FLUID DISORDER, OTHER
 ATRIAL FIBRILLATION (AFIB)
 DELIRIUM / CONFUSION
 PANCREATITIS, ACUTE
   74yoM h/o HIV on HAART and EtOH abuse transfered from OSH with
   pancreatitis and altered mental status, continues to be intubated and
   altered, but is slowly improving in his responsiveness to outside
   stimuli.
   #.  Pancreatitis - Severe pancreatitis as demonstrated on CT with
   evidence of pseudocyst.  Etiology likely secondary to EtOH vs drug
   reaction, HAART therapy held at OSH.  Cholelithiasis unlikely given
   unremarkable RUQ u/s.  Lipase has been normal through admission.
   [**Last Name (un) 1369**]
s criteria significant for age, WBC
s and LDH on presentation
   and Hct drop, base deficit, and fluid sequestration at 48hrs. With
   these six criteria, has 40% chance mortality.
   --F/u with Pancreas team re: starting jejunal feedings now that he has
   post pyloric Dobhoff tube
   --NPO for now though
   --hold HAART meds per conversation with pt's PCP/ID MD.
   --pain meds with Fentanyl
   --If clinically deteriorate, consider re-imaging
   # Dropping hematocrit
 Hct seen to drop yesterday from 27's to 24's in
   context of overall LOS 17L net positive. Was stable through the day at
   24. No obvious signs of bleeding and no gross changes in vital signs.
   --Pm Hct this afternoon and watch
   --Hold on transfusions for now
   #.  Respiratory failure: ABG is stable for 2days now. Signs of fluid
   overload on CXR yesterday but no change in his respiratory status.
   --SBT today
   #.  Altered mental status-- Likely multifactorial and h/o progressive
   decline for one year. CT scan showed moderate ventriculomegaly,
   out-of-proportion to sulcal enlargement, concerning for communicating
   hydrocephalus or a chronic process. TSH normal.
   --F/u Crypto and HSV from PCR
   --Will continue to wean sedation today
   #.  Leukocytosis -  No clear source to date, not on antibiotics. Likely
   from pancreatitis itself, and is trending down. Still with low grade
   fever yesterday 100.
   - PICC line has been pulled and has new central line --> cath tip is
   negative for infxn
   - Get surveillance Cx's q3 days --> will get one today [**2134-9-30**]
   - Continue to hold Abx until clear source
   #.  EtOH Withdrawal - H/o daily EtOH and prior to intubation had been
   receiving BZD, approx 4-8mg in 24hrs.  Unknown if prior seizures or
   withdrawal.  H/o chronic decline.  We can reassess after his mental
   status improves, as he is currently intubated and sedated.
   - thiamine, multivitamins, folate qday
   - continue sedation Versed as is for now
   #.  HIV - Diagnosed in [**2124**] and long-term HAART therapy, currently held
   given concern for pancreatitis.
   - Currently holding HAART. Was taking Combivir/Sustiva before
   admission.
   - Spoke with ID PCP who deferred initiating HAART to us, but was ok
   with not starting it during acute illness
   #.  FEN: Start GI tube feeds through Dobhoff
   - lytes [**Hospital1 7**], replete as needed
   #.  PPX:
   -DVT ppx with pneumoboots and SC heparin.
   -Bowel regimen not needed currently.
   -Pain management with fentanyl, will try to wean
   #.  ACCESS: PIV's, Central line on R placed yesterday.  Art line on R
   #.  CODE STATUS: Per report, DNR, ok to intubate but he has said he
   would like a
dignified death
 and does not want prolonged mechanical
   ventilation.  Will clarify with his son.
   #.  EMERGENCY CONTACT: [**First Name4 (NamePattern1) 107**] [**Known lastname 11148**] healthcare proxy (son, lives in
   [**Name (NI) 11149**]) [**Telephone/Fax (1) 11150**].  --> Family meeting planned for today at 4pm.
   #.  DISPOSITION: ICU pending improvement in mental status.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2134-9-29**] 05:51 PM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-9-26**] 03:00 PM
   Arterial Line - [**2134-9-27**] 06:44 AM
   Multi Lumen - [**2134-9-28**] 04:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2134-10-01 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Dr. [**Last Name (STitle) 2269**] re advancing TF: advance as tolerated per nutrition recs.
   Goal is 60ml/hour.
   - PM Hct stable at 25.0
   - Family meeting with daughter and son (in [**Name (NI) 9091**]): Pt would not want
   prolonged ventilation or prolonged rehab, but unsure given that this is
   potentially reversible, they will call back today with a decision for a
   plan
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-10-1**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-1**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.1
   HR: 112 (74 - 124) bpm
   BP: 69/64(66) {69/44(53) - 150/86(103)} mmHg
   RR: 19 (17 - 23) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 74 Inch
    CVP: 13 (9 - 17)mmHg
   Total In:
                                                                  1,794 mL
                                                                    987 mL
   PO:
   TF:
                                                                    360 mL
                                                                    217 mL
   IVF:
                                                                  1,374 mL
                                                                    770 mL
   Blood products:
   Total out:
                                                                  1,930 mL
                                                                    840 mL
   Urine:
                                                                  1,280 mL
                                                                    340 mL
   NG:
                                                                    650 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                   -136 mL
                                                                    147 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 22 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 13.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   543 K/uL
   8.3 g/dL
   147 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.9 mEq/L
   13 mg/dL
   106 mEq/L
   142 mEq/L
   24.7 %
   18.2 K/uL
        [image002.jpg]
                             [**2134-9-28**]  03:45 AM
                             [**2134-9-28**]  06:20 AM
                             [**2134-9-28**]  04:00 PM
                             [**2134-9-29**]  02:46 AM
                             [**2134-9-29**]  03:11 AM
                             [**2134-9-29**]  03:56 PM
                             [**2134-9-30**]  03:28 AM
                             [**2134-9-30**]  04:36 AM
                             [**2134-9-30**]  03:48 PM
                             [**2134-10-1**]  03:22 AM
   WBC
   18.4
   17.2
   14.6
   18.2
   Hct
   27.5
   27.3
   24.9
   24.8
   24.2
   25.0
   24.7
   Plt
   365
   369
   468
   543
   Cr
   1.1
   1.1
   1.0
   1.1
   1.1
   TCO2
   27
   28
   Glucose
   126
   204
   108
   113
   147
   Other labs: PT / PTT / INR:13.7/28.1/1.2, CK / CKMB / Troponin-T:211//,
   ALT / AST:28/37, Alk Phos / T Bili:56/0.9, Amylase / Lipase:152/13,
   Differential-Neuts:77.8 %, Band:0.0 %, Lymph:17.2 %, Mono:3.4 %,
   Eos:1.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:311 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Microbiology: Blood, urine, cath tip, CSF negative to date.
   CSF HSV and cryptococcal negative.
   Assessment and Plan
   74yoM h/o HIV on HAART and EtOH abuse transfered from OSH with
   pancreatitis and altered mental status, continues to be intubated and
   altered, but is slowly improving in his responsiveness to outside
   stimuli.
   #.  Pancreatitis - Severe pancreatitis as demonstrated on CT with
   evidence of pseudocyst.  Etiology likely secondary to EtOH vs drug
   reaction, HAART therapy held at OSH.  Cholelithiasis unlikely given
   unremarkable RUQ u/s.  Lipase has been normal through admission.
   [**Last Name (un) 2245**] criteria:  40% chance mortality.
   - Per pancreas team will start TF as tolerated with goal determined by
   nutrition by Dobhoff
   --hold HAART meds per conversation with pt's PCP/ID MD.
   --pain control  with Fentanyl
   --If clinically deteriorates, consider re-imaging
   # Dropping hematocrit
 Hct trend down but now stable.  Hemodynamically
   stable and able to wean off presssor overnight.  No gross bleeding
   --[**Hospital1 7**] Hct
   #.  Respiratory failure: ABG stable. Evidence of fluid overload on CXR
   but stable respiratory status.
   --wean vent as tolerated
   #.  Altered mental status-- Likely multifactorial and h/o progressive
   decline for one year. CT scan showed moderate ventriculomegaly,
   out-of-proportion to sulcal enlargement, concerning for communicating
   hydrocephalus or a chronic process. TSH normal.  CSF negative.
   --Will continue to wean sedation today aand reassess mental status
   #.  Leukocytosis -  Trending upwards without clear source to date, not
   on antibiotics. Still with low grade fever yesterday 100.  Cultures
   negative to date.  Likely from pancreatitis.
   - Surveillance Cx's q3 days --> next [**10-3**]
   - Continue to hold Abx until clear source
   #.  HIV - Diagnosed in [**2124**] and long-term HAART therapy, currently held
   given concern for pancreatitis.
   - Currently holding HAART. Was taking Combivir/Sustiva before
   admission.
   - Spoke with ID PCP who deferred initiating HAART to us, but was ok
   with not starting it during acute illness
   #.  FEN: Start enteral feeds through Dobhoff
   - lytes [**Hospital1 7**], replete as needed
   #.  PPX:
   -DVT ppx with pneumoboots and SC heparin.
   -Bowel regimen not needed currently.
   -Pain management with fentanyl, will try to wean
   #.  ACCESS: PIV's, Central line on R placed yesterday.  Art line on R
   #.  CODE STATUS: Per report, DNR, ok to intubate but he has said he
   would like a
dignified death
 and does not want prolonged mechanical
   ventilation.  Will clarify with his son.
   #.  EMERGENCY CONTACT: [**First Name4 (NamePattern1) 107**] [**Known lastname 11148**] healthcare proxy (son, lives in
   [**Name (NI) 11149**]) [**Telephone/Fax (1) 11150**].  --> Family meeting planned for today at 4pm.
   #.  DISPOSITION: ICU pending improvement in mental status.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2134-9-30**] 12:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-9-26**] 03:00 PM
   Arterial Line - [**2134-9-27**] 06:44 AM
   Multi Lumen - [**2134-9-28**] 04:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-10-02 08:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-1**]
   - Son is planning on arriving in town on Sunday, agreed not to escalate
   care, will make CMO when he arrives
   - No more blood draws, no additional pressor support
   - Continue comfort measures
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-2**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.1
C (100.6
   HR: 84 (72 - 135) bpm
   BP: 97/59(70) {91/48(61) - 153/75(95)} mmHg
   RR: 20 (20 - 29) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 74 Inch
    CVP: 14 (4 - 14)mmHg
   Total In:
                                                                  2,171 mL
                                                                  1,334 mL
   PO:
   TF:
                                                                    894 mL
                                                                    329 mL
   IVF:
                                                                  1,277 mL
                                                                  1,005 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                  1,090 mL
   Urine:
                                                                  1,040 mL
                                                                    590 mL
   NG:
                                                                  1,300 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                           -169  --> 16L up through LOS mL
                                                                    244 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 620 (620 - 620) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 12.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   543 K/uL
   8.3 g/dL
   147 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.9 mEq/L
   13 mg/dL
   106 mEq/L
   142 mEq/L
   24.7 %
   18.2 K/uL
        [image002.jpg]
                             [**2134-9-28**]  03:45 AM
                             [**2134-9-28**]  06:20 AM
                             [**2134-9-28**]  04:00 PM
                             [**2134-9-29**]  02:46 AM
                             [**2134-9-29**]  03:11 AM
                             [**2134-9-29**]  03:56 PM
                             [**2134-9-30**]  03:28 AM
                             [**2134-9-30**]  04:36 AM
                             [**2134-9-30**]  03:48 PM
                             [**2134-10-1**]  03:22 AM
   WBC
   18.4
   17.2
   14.6
   18.2
   Hct
   27.5
   27.3
   24.9
   24.8
   24.2
   25.0
   24.7
   Plt
   365
   369
   468
   543
   Cr
   1.1
   1.1
   1.0
   1.1
   1.1
   TCO2
   27
   28
   Glucose
   126
   204
   108
   113
   147
   Other labs: PT / PTT / INR:13.7/28.1/1.2   , CK / CKMB /
   Troponin-T:211//, ALT / AST:28/37, Alk Phos / T Bili:56/0.9, Amylase /
   Lipase:152/13, Differential-Neuts:77.8 %, Band:0.0 %, Lymph:17.2 %,
   Mono:3.4 %, Eos:1.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL,
   LDH:311 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Gram positive cocci in clusters for [**9-30**]
   No CXR this am
   Assessment and Plan
 PANCREATITIS, ACUTE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 LEUKOCYTOSIS
 ATRIAL FIBRILLATION (AFIB)
   74yoM h/o HIV on HAART and EtOH abuse transfered from OSH with
   pancreatitis and altered mental status, continues to be intubated and
   altered, but is slowly improving in his responsiveness to outside
   stimuli.
   #.  Pancreatitis - Severe pancreatitis as demonstrated on CT with
   evidence of pseudocyst.  Etiology likely secondary to EtOH vs drug
   reaction, HAART therapy held at OSH.  Cholelithiasis unlikely given
   unremarkable RUQ u/s.  Lipase has been normal through admission.
   [**Last Name (un) 2245**] criteria:  40% chance mortality.
   --Continue tube feeds with goal 60cc/hr as tolerated
   --hold HAART meds per conversation with pt's PCP/ID MD.
   --pain control  with Fentanyl
   --If clinically deteriorates, consider re-imaging
   # Dropping hematocrit
 Hct trend down but now stable.  Hemodynamically
   stable and able to wean off presssor overnight.  No gross bleeding
   --Have stopped lab draws, so no more monitoring of Hct
   #.  Respiratory failure: ABG stable. Evidence of fluid overload on CXR
   but stable respiratory status.
   --Keep on vent as
   #.  Altered mental status-- Likely multifactorial and h/o progressive
   decline for one year. CT scan showed moderate ventriculomegaly,
   out-of-proportion to sulcal enlargement, concerning for communicating
   hydrocephalus or a chronic process. TSH normal.  CSF negative.
   --Will continue to wean sedation today aand reassess mental status
   #.  Leukocytosis -  Trending upwards without clear source to date, not
   on antibiotics. Still with low grade fever yesterday 100.  Cultures
   negative to date.  Likely from pancreatitis.
   - Surveillance Cx's q3 days --> next [**10-3**]
   - Continue to hold Abx until clear source
   #.  HIV - Diagnosed in [**2124**] and long-term HAART therapy, currently held
   given concern for pancreatitis.
   - Currently holding HAART. Was taking Combivir/Sustiva before
   admission.
   - Spoke with ID PCP who deferred initiating HAART to us, but was ok
   with not starting it during acute illness
   #.  FEN: Start enteral feeds through Dobhoff
   - ISS
   - lytes [**Hospital1 7**], replete as needed
   #.  PPX:
   -DVT ppx with pneumoboots and SC heparin.
   -Bowel regimen not needed currently.
   -Pain management with fentanyl, will try to wean
   #.  ACCESS: PIV's, Central line on R placed yesterday.  Art line on R
   #.  CODE STATUS: Per report, DNR, ok to intubate but he has said he
   would like a
dignified death
 and does not want prolonged mechanical
   ventilation.  Will clarify with his son today.
   #.  EMERGENCY CONTACT: [**First Name4 (NamePattern1) 107**] [**Known lastname 11148**] healthcare proxy (son, lives in
   [**Name (NI) 11149**]) [**Telephone/Fax (1) 11150**].
   #.  DISPOSITION: ICU pending improvement in mental status.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2134-10-2**] 04:07 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-9-27**] 06:44 AM
   Multi Lumen - [**2134-9-28**] 04:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2134-10-03 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Severe pancreatitis
   24 Hour Events:
 FEVER - 102.2
F - [**2134-10-3**] 04:00 AM
   - Stopped MV, thiamine, folate, unnecessary meds
   - Continues on pressors and fentanyl/versed
   - Stopped [**Name (NI) 11328**]
   - Son to arrive tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Fentanyl - [**2134-10-2**] 06:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-10-3**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 39
C (102.2
   HR: 138 (74 - 138) bpm
   BP: 132/98(109) {79/52(62) - 132/98(109)} mmHg
   RR: 27 (20 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 74 Inch
             Total In:
                                                                  2,046 mL
                                                                    224 mL
   PO:
             TF:
                                                                    362 mL
   IVF:
                                                                  1,684 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                  2,130 mL
                                                                    460 mL
   Urine:
                                                                  1,430 mL
                                                                    460 mL
   NG:
                                                                    700 mL
   Stool:
   Drains:
   Balance:
                                                                    -84 mL
                                                                   -236 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 14 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 14 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   543 K/uL
   8.3 g/dL
   147 mg/dL
   1.1 mg/dL
   28 mEq/L
   3.9 mEq/L
   13 mg/dL
   106 mEq/L
   142 mEq/L
   24.7 %
   18.2 K/uL
        [image002.jpg]
                             [**2134-9-28**]  03:45 AM
                             [**2134-9-28**]  06:20 AM
                             [**2134-9-28**]  04:00 PM
                             [**2134-9-29**]  02:46 AM
                             [**2134-9-29**]  03:11 AM
                             [**2134-9-29**]  03:56 PM
                             [**2134-9-30**]  03:28 AM
                             [**2134-9-30**]  04:36 AM
                             [**2134-9-30**]  03:48 PM
                             [**2134-10-1**]  03:22 AM
   WBC
   18.4
   17.2
   14.6
   18.2
   Hct
   27.5
   27.3
   24.9
   24.8
   24.2
   25.0
   24.7
   Plt
   365
   369
   468
   543
   Cr
   1.1
   1.1
   1.0
   1.1
   1.1
   TCO2
   27
   28
   Glucose
   126
   204
   108
   113
   147
   Other labs: PT / PTT / INR:13.7/28.1/1.2, CK / CKMB / Troponin-T:211//,
   ALT / AST:28/37, Alk Phos / T Bili:56/0.9, Amylase / Lipase:152/13,
   Differential-Neuts:77.8 %, Band:0.0 %, Lymph:17.2 %, Mono:3.4 %,
   Eos:1.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:311 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Microbiology: [**9-/2130**] blood cx: GPC in cocci
   Assessment and Plan
 PANCREATITIS, ACUTE
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 ANEMIA, OTHER
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 LEUKOCYTOSIS
 ATRIAL FIBRILLATION (AFIB)
   74yoM h/o HIV on HAART and EtOH abuse transfered from OSH with
   pancreatitis and altered mental status, continues to be intubated and
   altered, but is slowly improving in his responsiveness to outside
   stimuli.
   Per family meeting, waiting for pt
s son to arrive from [**Name (NI) 9091**] on
   [**Name (NI) 1117**], at which point they have decided to terminally extubate him and
   make him CMO. To that effect we have weaned all unnecessary meds.
   Continues on pressors and sedation. Will d/c tube feeds. D/c lab draws.
   Continues on ventilator.
   FEN: Stopping TF
s and lab draws. Not replacing electrolytes.
   #.  PPX:
   -DVT ppx with pneumoboots
   #.  ACCESS: PIV's, Central line on R placed yesterday.  Art line on R
   #.  CODE STATUS: Continue minimal amt of sedation and pressors, will
   f/u with family tomorrow and make CMO.
   #.  EMERGENCY CONTACT: [**First Name4 (NamePattern1) 107**] [**Known lastname 11148**] healthcare proxy (son, lives in
   [**Name (NI) 11149**]) [**Telephone/Fax (1) 11150**].
   #.  DISPOSITION: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-9-27**] 06:44 AM
   Multi Lumen - [**2134-9-28**] 04:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: